US08912186B2
To a solution of commercial 1-naphthaldehyde (25 g) and ethyl acetoacetate (40.5 ml) in ethanol (30 ml) piperidine (3 ml) was added with stirring at rt. The orange coloured solution was kept at rt for a week. The viscous orange oil (the bis-adduct of acetoacetate to the aldehyde) was not further purified but used directly for the next step. The oil was added in portions to 40% NaOH (500 g) with stirring and rinsed with ethanol. The resulting orange slurry was stirred at reflux for 2 h. After cooling to rt the mixture was filtered and washed with water to give an orange coloured, partly resinous solid (sodium salt of 3-(1-naphthyl)glutaric acid). The salt was slurried in conc. HCl/water 1:1 (300 ml) and kept at rt for 3 d. The remaining solid was isolated by suction filtration and washed with water. The still wet filter cake was taken up in acetone (200 ml) and the organic layer was dried by addition of sodium sulfate. After filtration the solvent was removed by distillation and the residue (32.1 g amorphous orange solid) was triturated with ethyl acetate (40 ml) to leave a light yellowish powder (11.6 g) which was identified by NMR as the desired 3-(1-naphthyl)glutaric acid. The suspension of 3-(1-naphthyl)glutaric acid in acetyl chloride (16 ml) was heated to reflux with stirring for 1.5 h. After cooling to rt precipitation of the product is completed by addition of petrol ether (100 ml). The precipitate is isolated by suction filtration, washed with petrol ether, and dried in vacuo to provide 3-(1-naphthyl)glutaric anhydride (10.54 g) as light beige solid.

reactant | 3-(1-naphthyl)glutaric acid | C1(=CC=CC2=CC=CC=C12)C(CC(=O)O)CC(=O)O | C15H14O4
solvent | acetyl chloride | 16 ml | C(C)(=O)Cl | C2H3ClO
product | 3-(1-naphthyl)glutaric anhydride | 10.54 g | C1(=CC=CC2=CC=CC=C12)C1CC(=O)OC(C1)=O | C15H12O3
